US07579488B2
Step B. 3-(5-Benzyloxy-benzofuran-2-yl)-pentan-3-ol
5-Benzyloxy-benzofuran-2-carboxylic acid ethyl ester (6.02 g, 20.3 mmol) and EtMgBr (20.3 mL, 3.0 M) in THF (100 mL) are reacted analogous to Example 18-B to give the title compound (6.10 g, 97%).

reactant | 5-Benzyloxy-benzofuran-2-carboxylic acid ethyl ester | 20.3 mmol, 6.02 g | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)OCC2=CC=CC=C2 | C18H16O4
reactant | EtMgBr | 3.0 M, 20.3 mL | CC[Mg+].[Br-]
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-(5-Benzyloxy-benzofuran-2-yl)-pentan-3-ol | 6.10 g, 97% | C(C1=CC=CC=C1)OC=1C=CC2=C(C=C(O2)C(CC)(CC)O)C1 | C20H22O3
